US09302989B2
N-(5-{[4-(pyridin-2-yl)piperazin-1-yl]carbonyl}pyridin-2-yl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting N-(2-pyridyl)piperazine for 3-phenylpropan-1-amine and 6-(isoindoline-2-carboxamido)nicotinic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.21 (s, 1H), 8.39 (dd, J=2.3, 0.8 Hz, 1H), 8.13 (dd, J=4.9, 1.9 Hz, 1H), 8.00 (dd, J=8.6, 0.8 Hz, 1H), 7.84 (dd, J=8.6, 2.4 Hz, 1H), 7.56 (ddd, J=8.7, 6.9, 1.9 Hz, 1H), 7.34-7.39 (m, 2H), 7.29-7.34 (m, 2H), 6.85 (d, J=8.5 Hz, 1H), 6.67 (dd, J=6.7, 4.9 Hz, 1H), 4.75-4.92 (bs, 4H), 3.47-3.81 (m, 8H); MS (ESI(+)) m/e 429 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 6-(isoindoline-2-carboxamido)nicotinic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=NC=C(C(=O)O)C=C1 | C15H13N3O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-(5-{[4-(pyridin-2-yl)piperazin-1-yl]carbonyl}pyridin-2-yl)-1,3-dihydro-2H-isoindole-2-carboxamide | N1=C(C=CC=C1)N1CCN(CC1)C(=O)C=1C=CC(=NC1)NC(=O)N1CC2=CC=CC=C2C1 | C24H24N6O2
